US07589090B2
To a solution of 5-(2-isopropyl-4-methoxy-phenoxy)-pyrimidine-2,4-diamine (6.50 g) in mL glacial Acetic acid was added a solution of 9.205 g ICl (iodine monochloride) in 8 mL of acetic acid, with addition carried out at a rate such that the temperature of the resulting mixture did not exceed 24 degrees C. Water (11.0 mL) was added and the resultant mixture was stirred at 25 degrees C. for 42 hours. Excess ICl was decomposed by the addition of aqueous solution of sodium bisulfite (3.5 mL) at a rate such that the temperature of the reaction mixture did not exceed 20 degrees C. Water (40 mL) was added, and the precipitate was collected by filtration and air-dried to give 8.86 g of crude 5-(5-iodo-2-isopropyl-4-methoxy-phenoxy)-pyrimidine-2,4-diamine. A suspension of the crude product in 90 mL water was made basic by addition of 50% NaOH, and the resulting solution was extracted into warm EtOAc. The combined organic layers were filtered and EtOAc was replaced by isopropanol via distillation. To the hot isopropanol solution was added 3.4 mL of 6N HCl and the resultant mixture was cooled slowly to 15 degrees C. Crystals of the resulting HCl salt were isolated by filtration, rinsed with isopropanol, and dried under vacuum at 70 degrees C. to give 6.08 g (58.8%) of 5-(5-iodo-2-isopropyl-4-methoxy-phenoxy)-pyrimidine-2,4-diamine hydrochloride salt, m.p.=262.0-263.0° C., MS (M+H)=401.

reactant | 5-(2-isopropyl-4-methoxy-phenoxy)-pyrimidine-2,4-diamine | 6.50 g | C(C)(C)C1=C(OC=2C(=NC(=NC2)N)N)C=CC(=C1)OC | C14H18N4O2
reactant | ICl | 9.205 g | ICl | ClI
reactant | Water | 11.0 mL | O | H2O
reactant | sodium bisulfite | 3.5 mL | S([O-])(O)=O.[Na+]
reactant | Water | 40 mL | O | H2O
solvent | Acetic acid | C(C)(=O)O | C2H4O2
solvent | acetic acid | 8 mL | C(C)(=O)O | C2H4O2
product | 5-(5-iodo-2-isopropyl-4-methoxy-phenoxy)-pyrimidine-2,4-diamine | 8.86 g | IC=1C(=CC(=C(OC=2C(=NC(=NC2)N)N)C1)C(C)C)OC | C14H17IN4O2
